US06777428B1
4-[3-(4-fluorobenzamidyl)benzoyl]-1-methylpiperidine
4-Fluorobenzoyl chloride (0.98 ml, 8.3 mmol) was added dropwise to a 0° C. solution of 4-[3-aminobenzoyl]-1-methylpiperidine (1.64 g, 7.5 mmol) and triethylamine (1.3 ml, 9.0 mmol) in tetrahydrofuran (20 ml). The reaction mixture stirred 2 h at room temperature, diluted with ethyl acetate and 1N sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate extracts were washed with water, brine, then dried over sodium sulfate. Solvent was removed under reduced pressure to give 2.5 g (98%) of a foam.

reactant | 4-Fluorobenzoyl chloride | 8.3 mmol, 0.98 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 7.5 mmol, 1.64 g | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | triethylamine | 9.0 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 4-[3-(4-fluorobenzamidyl)benzoyl]-1-methylpiperidine | 2.5 g, 98% | FC1=CC=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=C1 | C20H21FN2O2
